US05610293
C. Synthesis of 2-Aminoeicosanamide
A slurry of ethyl-2-aminoeicosanoate hydrochloride prepared as in Example 28B (74.2 g, 0.189 mol) in anhydrous methanol (500 ml) was saturated with anhydrous ammonia at 0° C. The resulting mixture was sealed in a pressure bottle and heated to 60° C., resulting in a pressure of 40 psi. After 65 h at 60° C., the crystalline mixture was cooled to -20° C. and the solid was filtered to give 57.6 g (93%) of the product as off-white plates: mp 103°-4° C.; 1H NMR (CDCl3) δ 0.88 (t, J=6.5 Hz, 3 H), 1.37 (m, 35 H), 1.82 (m, 1 H), 3.67 (m, 1 H), 5.30 (br s, 1 H), 7.09 (br s, 1 H).

reactant | ethyl-2-aminoeicosanoate hydrochloride | Cl.C(C)OC(C(CCCCCCCCCCCCCCCCCC)N)=O
reactant | ammonia | N | H3N
solvent | methanol | 500 ml | CO | CH4O
product | 2-Aminoeicosanamide | 57.6 g, 93% | NC(C(=O)N)CCCCCCCCCCCCCCCCCC | C20H42N2O
